US04077965
Thus obtained 5-(2-acetamidoethyl)-1,3,4-thiadiazole-2-thiol (0.86 g) was dissolved in a mixture of 6N hydrochloric acid (9 ml) and dioxane (5 ml) and the solution was heated to reflux for 2.5 hours. The solvent was distilled off and the residue was washed with ethanol to give 5-(2-aminoethyl)-1,3,4-thiadiazole-2-thiol hydrochloride (700 mg). m.p. 218° to 220° C.

reactant | 5-(2-acetamidoethyl)-1,3,4-thiadiazole-2-thiol | 0.86 g | C(C)(=O)NCCC1=NN=C(S1)S | C6H9N3OS2
reactant | hydrochloric acid | 6N, 9 ml | Cl | ClH
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
product | 5-(2-aminoethyl)-1,3,4-thiadiazole-2-thiol hydrochloride | 700 mg | Cl.NCCC1=NN=C(S1)S | InChI=1S/C4H7N3S2.ClH/c5-2-1-3-6-7-4(8)9-3;/h1-2,5H2,(H,7,8);1H
